US05229381
To a solution of 17 ml of triethylamine and 5.0 g of the imine formed from ethyl glyoxalate and p-anisidine in 100 ml of refluxing 1,2-dichloroethane was added dropwise over 2 hours a solution of 16 ml of freshly distilled phenylacetyl chloride in 50 ml of dichloroethane. After refluxing for three hours the reaction was worked-up as per the 3-azidoazetidinone. The crude residue was chromatographed to yield the cis and trans isomers of 4-carboethoxy-1-(p-methoxyphenyl)-3-phenylazetidin-2-one as oils; cis: NMR (CDCl3): δ 7.2 (m, 7H), 6.7 (d, J=9, 2H), 4.7 (s, 2H), 3.6 (s, 3H), 3.6 (q, J=7, 2H), 0.7 (t, J=7, 3H); trans: NMR (CDCl3): δ 7.3 (m, 7H), 6.8 (d, J=9, 2H), 4.5 (d, J=2, 1H), 4.45 (d, J=2, 1H), 4.1 (q, J=7, 2H), 3.6 (s, 3H), 1.2 (t, J=7, 3H).

reactant | ethyl glyoxalate | C(C=O)(=O)OCC | C4H6O3
reactant | p-anisidine | COC1=CC=C(C=C1)N | C7H9NO
reactant | phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | 3-azidoazetidinone | N(=[N+]=[N-])C1C(NC1)=O | C3H4N4O
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
solvent | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
solvent | triethylamine | 17 ml | C(C)N(CC)CC | C6H15N
product | 4-carboethoxy-1-(p-methoxyphenyl)-3-phenylazetidin-2-one | C(=O)(OCC)C1C(C(N1C1=CC=C(C=C1)OC)=O)C1=CC=CC=C1 | C19H19NO4
